US08349876B2
6-(2-(Thiophen-2-yl)propan-2-yl)-3-m-tolylpyridine-2,4-diol (8a).
To a solution of 2a (0.83 g, 5.5 mmol) in anhydrous diethyl ether (5 mL) was added under argon 1.6M methyl lithium in diethyl ether (21 mL, 33.00 mmol) and the mixture was stirred for 3 hrs. at room temperature. After quenching with water, the mixture was extracted with diethyl ether. The extracts were dried over anhydrous Na2SO4 and the solvent was evaporated under reduced pressure to afford a colorless oil (0.86, 95%). A solution of the intermediate product (3-methyl-3-(thiophen-2-yl)butan-2-imine; 0.73 g, 4.36 mmol) and diethyl 2-m-tolylmalonate (0.70 g, 4.36 mmol) in 1 mL diglyme was refluxed at 135° C. for 3 hours. The reaction mixture was cooled and poured into hexane to afford a yellow precipitate, which was collected and crystallized from ethyl acetate/hexane mixture. Off white powder, Yield: 52% MS: (ESI, Neg) 323.90 (M−1) 1HNMR (500 MHz, DMSO-d6): ∂(ppm) 10.69(s, 1H), 10.19(s, 1H), 7.46(d, 1H), 7.11-7.19(m, 3H), 6.99-7.05(m, 3H), 5.78(s, 1H), 2.28(s, 3H), 1.72(s, 6H).

reactant | 3-methyl-3-(thiophen-2-yl)butan-2-imine | CC(C(C)=N)(C)C=1SC=CC1 | C9H13NS
reactant | diethyl 2-m-tolylmalonate | 4.36 mmol, 0.70 g | C1(=CC(=CC=C1)C(C(=O)OCC)C(=O)OCC)C | C14H18O4
reactant | hexane | CCCCCC | C6H14
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diglyme | 1 mL | COCCOCCOC | C6H14O3
solvent | diethyl ether | 33.00 mmol, 21 mL | C(C)OCC | C4H10O
product | 6-(2-(Thiophen-2-yl)propan-2-yl)-3-m-tolylpyridine-2,4-diol | Yield: 52% | S1C(=CC=C1)C(C)(C)C1=CC(=C(C(=N1)O)C=1C=C(C=CC1)C)O | C19H19NO2S
